US05739162
(3) 2-(Allyloxycarbonylphenylglycylamino)benzophenone 6b
To DMA (40 ml) are added phosphorous oxychloride (2.07 ml, 22.64 mmol) and imidazole (1.54 g, 22.64 mmol) with stirring and under cooling. A solution of (3-allyloxycarbonylphenyl)ureidoacetic acid (3.0 g, 10.78 mmol) in dimethylacetamide (10 ml) is added dropwise and the mixture is stirred for 10 minutes under ice-cooling. Then, a solution of 2-aminobenzophenone (2.34 g, 11.86 mmol) in DMA (5 ml) is added dropwise. The reaction solution is stirred at 50° C. for 5.5 hours. After allowing to cool, water and ethyl acetate are added to the reaction solution to adjust the pH to 9 with an aqueous saturated sodium bicarbonate solution, and the aqueous layer is extracted with ethyl acetate. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue is crystallized from toluene to obtain the objective compound (3.63 g). Yield 74%.

reactant | phosphorous oxychloride | 22.64 mmol, 2.07 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | imidazole | 22.64 mmol, 1.54 g | N1C=NC=C1 | C3H4N2
reactant | (3-allyloxycarbonylphenyl)ureidoacetic acid | 10.78 mmol, 3.0 g | C(C=C)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)O)=O | C13H14N2O5
reactant | 2-aminobenzophenone | 11.86 mmol, 2.34 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
reactant | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
reactant | DMA | 40 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(Allyloxycarbonylphenylglycylamino)benzophenone | 3.63 g, Yield 74% | C(C=C)OC(=O)N(CC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C25H22N2O4
